US09216999B2
1-(4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)propan-1-one
1-(4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)propan-1-ol (75.6 mg, 0.222 mmol) in 1,2-dimethoxyethane (5 mL) was vigorously stirred with manganese dioxide (450 mg, 5.17 mmol) at 60° C. for 3 hours and then at 80° C. for 3 hours. The reaction mixture was filtered, the solid was washed with chloroform, and the filtrate and the washings were concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1→5/1 (v/v)) to give the title compound as a colorless oil (39.9 mg, yield 53%).

reactant | 1-(4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)propan-1-ol | 0.222 mmol, 75.6 mg | ClC1=C2C(=NC=C1C(CC)O)N(C=C2)COCC[Si](C)(C)C | C16H25ClN2O2Si
solvent | 1,2-dimethoxyethane | 5 mL | COCCOC | C4H10O2
catalyst | manganese dioxide | 5.17 mmol, 450 mg | [O-2].[O-2].[Mn+4]
product | 1-(4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)propan-1-one | 39.9 mg, yield 53% | ClC1=C2C(=NC=C1C(CC)=O)N(C=C2)COCC[Si](C)(C)C | C16H23ClN2O2Si
